US07888364B2
Ethyl 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzimidate (2.0 ml of a 0.075 M methanol solution, 0.15 mmol) was treated with (tetrahydrofuran-2-yl)methanamine (23 μl, 0.23 mmol) via procedure W to afford 76 mg of N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(N-((tetrahydrofuran-2-yl)methyl)carbamimidoyl)benzamide. MS (Q1) 435 (M)+.

reactant | Ethyl 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzimidate | ClC1=C(C=C(C=C1)NC(=O)C1=CC=C(C(OCC)=N)C=C1)C1=NC=CC=C1 | C21H18ClN3O2
reactant | (tetrahydrofuran-2-yl)methanamine | 0.23 mmol, 23 μl | O1C(CCC1)CN | C5H11NO
solvent | methanol | 0.075 M | CO | CH4O
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(N-((tetrahydrofuran-2-yl)methyl)carbamimidoyl)benzamide | 76 mg | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)C(NCC1OCCC1)=N)=O)C1=NC=CC=C1 | C24H23ClN4O2
